US04116961
4-Hydroxy-8-phenyl-1,2-benzoxathiin-3-carboxanilide
Phenylisocyanate (20.5 mmol) was added to a cooled DMF solution (25 ml) containing 20.5 mmol of NaH and 5.0 g (18.3 mmol) of 4-hydroxy-8-phenyl-1,2-benzoxathiin-2,2-dioxide. The resultant mixture was heated at 75° for 2.5 hours. The mixture was cooled, poured into ice-H2O (100 ml) and acidified with HCl. The resultant precipitate was collected by filtration and gave 6.70 g (93.3%) of the expected product, mp. 175°. The crude product was purified by recrystallization from 2-PrOH/hexane to give the analytical sample, mp. 181°-183°.

reactant | Phenylisocyanate | 20.5 mmol | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | NaH | 20.5 mmol | [H-].[Na+]
reactant | 4-hydroxy-8-phenyl-1,2-benzoxathiin-2,2-dioxide | 18.3 mmol, 5.0 g | OC1=CS(OC2=C1C=CC=C2C2=CC=CC=C2)(=O)=O | C14H10O4S
reactant | HCl | Cl | ClH
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 4-Hydroxy-8-phenyl-1,2-benzoxathiin-3-carboxanilide | 6.70 g, 93.3% | OC1=C(SOC2=C1C=CC=C2C2=CC=CC=C2)C(=O)NC2=CC=CC=C2 | C21H15NO3S
